US05663154
6 Ethylmethylamino-9H-purine (0.46 g, 2.6 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.50 g, 2.2 moles) were suspended in 50 ml, 10 mM potassium phosphate buffer, pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase (10,000 I.U.) (Krenitsky et al., Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,344) immobilized on DEAE cellulose was added to the reaction and the suspension was stirred at 45° C. After 6 days, 150 ml MeOH was added to the reaction. The reaction was applied to a column containing AG1-X2 (OH-- form, 2.5×10 cm) and eluted with MeOH. Fractions containing product were pooled, concentrated, and flash chromatographed on silica gel (2.5×20 cm) with dichloromethane:acetone (9:1). Solvent was removed and lyophilization yielded 0.323 g of 9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-ethylmethylamino-9H-purine (50%): mp 99°-100° C.; TLC Rf 0.75 (silica gel, MeCN:15N NH4OH:H2O/85:5:10);

reactant | Ethylmethylamino-9H-purine | 2.6 mmoles, 0.46 g | C(C)N1C2=NC(=NC=C2N=C1)NC | C8H11N5
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 moles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | 150 ml | CO | CH4O
product | 9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-ethylmethylamino-9H-purine | 0.323 g, 50% | F[C@H]1C[C@@H](O[C@@H]1CO)N1C2=NC(=NC(=C2N=C1)CC)NC | C13H18FN5O2
